US04578381
30 Grams of acetoacetanilide was dissolved in 30 ml of chloroform, then a solution containing 27 g of bromine in 30 ml of chloroform was added dropwise thereto at a room temperature with stirring. After completion of the addition of bromine, the reaction mixture was refluxed for 30 minutes. The reaction mixture was concentrated under a reduced pressure, the residue obtained was added to 70 ml of a concentrated sulfuric acid with stirring. The addition operation was conducted by keeping the inside of the vessel within 70°-75° C., then the whole mixture was poured into ice-water and the crystals precipitated were collected by filtration. Recrystallized from methanol-chloroform to obtain 20 g of 4-bromomethylcarbostyril in the form of colorless needel-like crystals.

reactant | acetoacetanilide | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
reactant | bromine | 27 g | BrBr | Br2
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromomethylcarbostyril | 20 g | BrCC1=CC(NC2=CC=CC=C12)=O | C10H8BrNO
